US05180735
To a solution of 1-(2-bromobenzyl)methylsulfoniomethyl-2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-3-methoxy- 1,4-cyclohexanediol bromide (150 mg) in dichloromethane (2 ml) was added dropwise, under ice-cooling, chloroacetylisocyanate (40 ml), then the mixture was stirred for 30 minutes. To the reaction mixture was added water to suspend the reaction. The product was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous saline solution, followed by drying over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by means of a silica gel column chromatography (carrier 10 g, developing solvent : chloroform-methanol=20:1) to give 1-(4-bromobenzyl)methylsulfoniomethyl-4-(N-chloroacetylcarbamoyloxy)-2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-3-methoxycyclohexanol bromide (80 mg: yield 44%).

reactant | 1-(2-bromobenzyl)methylsulfoniomethyl-2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-3-methoxy- 1,4-cyclohexanediol bromide | 150 mg | [Br-].BrC1=C(CC[SH+]CC2(C(C(C(CC2)O)OC)C2(C(CC=C(C)C)O2)C)O)C=CC=C1
reactant | chloroacetylisocyanate | 40 ml | ClCC(=O)N=C=O | C3H2ClNO2
reactant | water | O | H2O
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 1-(4-bromobenzyl)methylsulfoniomethyl-4-(N-chloroacetylcarbamoyloxy)-2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-3-methoxycyclohexanol bromide | 80 mg, yield 44% | [Br-].BrC1=CC=C(CC[SH+]CC2(C(C(C(CC2)OC(NC(CCl)=O)=O)OC)C2(C(CC=C(C)C)O2)C)O)C=C1 | InChI=1S/C27H37BrClNO6S.BrH/c1-17(2)5-10-21-26(3,36-21)24-23(34-4)20(35-25(32)30-22(31)15-29)11-13-27(24,33)16-37-14-12-18-6-8-19(28)9-7-18;/h5-9,20-21,23-24,33H,10-16H2,1-4H3,(H,30,31,32);1H
